** Generated for: hspiceD
** Generated on: Nov 25 20:29:01 2024
** Design library name: MyLibPDK45
** Design cell name: myFA
** Design view name: schematic
.GLOBAL vdd!


** Library name: MyLibPDK45
** Cell name: myInverter45
** View name: schematic
.subckt myInverter45 in out
m0 out in 0 0 NMOS_VTL L=50e-9 W=90e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m1 out in vdd! vdd! PMOS_VTL L=50e-9 W=180e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
.ends myInverter45
** End of subcircuit definition.

** Library name: MyLibPDK45
** Cell name: myFA
** View name: schematic
.subckt myFA a b cin cout s
m11 net35 cin net068 vdd! PMOS_VTL L=50e-9 W=180e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m10 net068 a net069 vdd! PMOS_VTL L=50e-9 W=180e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m9 net069 b vdd! vdd! PMOS_VTL L=50e-9 W=180e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m8 net35 net79 net42 vdd! PMOS_VTL L=50e-9 W=180e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m7 net42 cin vdd! vdd! PMOS_VTL L=50e-9 W=180e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m6 net42 b vdd! vdd! PMOS_VTL L=50e-9 W=180e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m5 net42 a vdd! vdd! PMOS_VTL L=50e-9 W=180e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m4 net79 a net071 vdd! PMOS_VTL L=50e-9 W=180e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m3 net071 b vdd! vdd! PMOS_VTL L=50e-9 W=180e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m2 net79 cin net7 vdd! PMOS_VTL L=50e-9 W=180e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m1 net7 b vdd! vdd! PMOS_VTL L=50e-9 W=180e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m0 net7 a vdd! vdd! PMOS_VTL L=50e-9 W=180e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m23 net60 b 0 0 NMOS_VTL L=50e-9 W=90e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m22 net64 a net60 0 NMOS_VTL L=50e-9 W=90e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m21 net35 cin net64 0 NMOS_VTL L=50e-9 W=90e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m20 net65 cin 0 0 NMOS_VTL L=50e-9 W=90e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m19 net65 b 0 0 NMOS_VTL L=50e-9 W=90e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m18 net65 a 0 0 NMOS_VTL L=50e-9 W=90e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m17 net35 net79 net65 0 NMOS_VTL L=50e-9 W=90e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m16 net12 b 0 0 NMOS_VTL L=50e-9 W=90e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m15 net79 a net12 0 NMOS_VTL L=50e-9 W=90e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m14 net4 b 0 0 NMOS_VTL L=50e-9 W=90e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m13 net4 a 0 0 NMOS_VTL L=50e-9 W=90e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m12 net79 cin net4 0 NMOS_VTL L=50e-9 W=90e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
xi10 net35 s myInverter45
xi9 net79 cout myInverter45
.ends myFA
.END
