* File: myHA.pex.netlist.pex
* Created: Tue Dec  3 14:54:10 2024
* Program "Calibre xRC"
* Version "v2016.4_38.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_MYHA%GND! 2 6 9 18 19 23 24 25 39 50 51 57 62 66 68 77
c69 77 GND 0.0487307f
c70 68 GND 0.00259815f
c71 63 GND 0.00232036f
c72 62 GND 0.0171062f
c73 51 GND 0.00468391f
c74 50 GND 0.00431344f
c75 39 GND 0.0252729f
c76 34 GND 0.00361845f
c77 25 GND 0.0053496f
c78 24 GND 0.00611426f
c79 23 GND 0.00685194f
c80 19 GND 0.00611216f
c81 18 GND 0.00663665f
c82 9 GND 0.005146f
c83 6 GND 0.00708997f
c84 2 GND 0.00713137f
r85 74 77 2.87321
r86 70 74 2.26786
r87 67 68 0.0418175
r88 64 65 0.70989
r89 58 66 0.160909
r90 57 68 0.160909
r91 57 58 0.542857
r92 52 66 0.0418175
r93 51 65 0.43879
r94 50 66 0.160909
r95 50 51 1.15357
r96 45 65 0.0708953
r97 41 64 0.0708953
r98 40 63 0.171069
r99 39 64 0.177738
r100 39 40 3.88769
r101 36 63 0.0335492
r102 35 62 0.171069
r103 34 63 0.171069
r104 34 35 0.584615
r105 31 62 0.0335492
r106 25 74 88.2939
r107 24 52 0.803429
r108 23 45 0.789857
r109 19 67 0.803429
r110 19 70 88.2939
r111 18 41 0.789857
r112 9 77 88.2939
r113 6 31 0.787143
r114 2 36 0.787143
.ends

.subckt PM_MYHA%VDD! 2 4 7 19 20 21 22 23 24 42 48 54 68 69 73 76 77 79 81 82 92
c83 92 GND 0.00715342f
c84 82 GND 0.0508963f
c85 81 GND 0.00834724f
c86 79 GND 0.00428492f
c87 75 GND 0.0020971f
c88 74 GND 0.0023228f
c89 73 GND 0.0173994f
c90 69 GND 0.00138003f
c91 48 GND 0.00404297f
c92 42 GND 0.0110213f
c93 35 GND 0.00361845f
c94 24 GND 0.00549943f
c95 23 GND 0.00905535f
c96 22 GND 0.00670852f
c97 21 GND 0.0092368f
c98 20 GND 0.00657205f
c99 19 GND 0.00729098f
c100 7 GND 0.00556806f
c101 4 GND 0.011767f
c102 2 GND 0.00666663f
r103 90 92 0.196429
r104 84 88 2.26786
r105 82 90 0.139682
r106 82 88 2.74821
r107 80 81 0.0418175
r108 78 79 0.54538
r109 69 78 0.19
r110 68 81 0.160909
r111 68 69 0.542857
r112 63 78 0.0223169
r113 62 77 0.171069
r114 62 79 1.24231
r115 56 77 0.0335492
r116 55 76 0.171069
r117 54 77 0.171069
r118 54 55 0.584615
r119 50 76 0.0335492
r120 49 75 0.171069
r121 48 76 0.171069
r122 48 49 1.92923
r123 44 75 0.0335492
r124 43 74 0.171069
r125 42 75 0.171069
r126 42 43 1.54923
r127 37 74 0.0335492
r128 36 73 0.171069
r129 35 74 0.171069
r130 35 36 0.584615
r131 32 73 0.0335492
r132 24 88 88.2939
r133 23 63 1.30014
r134 22 56 0.814286
r135 21 80 1.30014
r136 21 84 88.2939
r137 20 50 0.814286
r138 19 44 0.814286
r139 7 92 88.2939
r140 4 32 1.30014
r141 2 37 0.814286
.ends

.subckt PM_MYHA%COUT 1 3 10
c9 1 GND 0.0265885f
r10 3 10 1.18886
r11 1 10 1.121
.ends

.subckt PM_MYHA%B 1 5 10 11 12 15 20 24 25 27 29 30 32 35 43 46 54
c87 57 GND 0.00224138f
c88 55 GND 0.00486989f
c89 54 GND 0.0461101f
c90 46 GND 0.0358916f
c91 43 GND 0.00990034f
c92 35 GND 0.00175383f
c93 30 GND 0.0105634f
c94 29 GND 0.00393f
c95 27 GND 0.0211948f
c96 25 GND 0.00228909f
c97 24 GND 0.0124138f
c98 20 GND 0.027218f
c99 15 GND 0.0211918f
c100 12 GND 0.00409441f
c101 11 GND 0.0618338f
c102 10 GND 0.0220247f
c103 5 GND 0.0180959f
c104 1 GND 0.0261178f
r105 54 55 77.0449
r106 52 57 0.160909
r107 52 54 4.72286
r108 48 57 0.0418175
r109 45 46 77.0449
r110 43 57 0.160909
r111 43 45 0.730143
r112 35 36 77.0449
r113 32 35 0.301286
r114 30 48 1.30014
r115 28 46 56.8843
r116 28 29 2.5557
r117 24 36 3.65368
r118 24 25 0.530495
r119 21 55 4.5483
r120 18 29 1.56153
r121 18 20 30.42
r122 17 27 5.21812
r123 17 20 33.93
r124 13 27 5.21812
r125 13 15 29.25
r126 11 29 2.5557
r127 11 12 124.5
r128 8 12 4.45522
r129 8 10 35.88
r130 7 25 5.4228
r131 7 10 26.13
r132 3 25 5.4228
r133 3 5 32.37
r134 1 21 30.42
.ends

.subckt PM_MYHA%NET11 1 2 11 12 13 16 18 19 24
c47 34 GND 7.83671e-19
c48 24 GND 0.0043995f
c49 19 GND 0.00552486f
c50 18 GND 0.00382349f
c51 16 GND 0.0138389f
c52 13 GND 0.0119052f
c53 12 GND 0.0122523f
c54 11 GND 0.00587942f
c55 2 GND 0.0286341f
c56 1 GND 0.0219488f
r57 25 34 0.171069
r58 24 26 0.212696
r59 24 25 0.76
r60 20 34 0.0335492
r61 19 32 0.506667
r62 18 34 0.171069
r63 18 19 0.643077
r64 16 35 6.11
r65 15 16 77.0449
r66 13 32 0.0153712
r67 13 15 1.748
r68 12 26 1.49557
r69 11 20 0.458714
r70 8 35 2.67087
r71 5 35 2.67087
r72 2 8 33.93
r73 1 5 25.35
.ends

.subckt PM_MYHA%A 1 3 10 13 15 20 23 27 30 33 44
c72 44 GND 0.055395f
c73 33 GND 0.0028311f
c74 30 GND 0.0145237f
c75 27 GND 0.0163014f
c76 23 GND 0.0272496f
c77 20 GND 0.0228905f
c78 16 GND 0.00484722f
c79 15 GND 0.107645f
c80 13 GND 0.0225913f
c81 10 GND 0.0167787f
c82 1 GND 0.0229555f
r83 43 44 77.0449
r84 30 51 5.499
r85 29 33 0.282286
r86 29 30 77.0449
r87 25 44 98.0571
r88 25 27 1.11957
r89 21 27 2.93485
r90 21 23 33.93
r91 18 27 2.93485
r92 18 20 29.25
r93 17 20 29.64
r94 15 17 4.51741
r95 15 16 183.021
r96 11 51 3.06959
r97 11 13 38.61
r98 8 51 3.06959
r99 8 10 19.11
r100 7 16 4.51741
r101 7 10 34.32
r102 3 43 1.22143
r103 1 43 1.21057
.ends

.subckt PM_MYHA%XI2/BBAR 1 6 7 8 9 13 16 17 18 25 30
c55 26 GND 0.00486989f
c56 25 GND 0.0413219f
c57 18 GND 4.90528e-19
c58 17 GND 0.00175567f
c59 16 GND 0.00328772f
c60 13 GND 0.00720317f
c61 9 GND 0.00386585f
c62 8 GND 0.0192706f
c63 7 GND 0.00720288f
c64 1 GND 0.0190942f
r65 25 26 77.0449
r66 23 30 0.160909
r67 23 25 4.72286
r68 19 30 0.0418175
r69 17 30 0.160909
r70 17 18 1.52
r71 15 18 0.213032
r72 15 16 0.551613
r73 13 16 0.213032
r74 13 14 0.963571
r75 8 9 2.25557
r76 7 19 0.803429
r77 6 9 0.106158
r78 6 14 0.106158
r79 3 26 4.49258
r80 1 3 23.4
.ends

.subckt PM_MYHA%S 1 3 7 8 17 20 27 28
c34 28 GND 1.18485e-19
c35 27 GND 1.30478e-19
c36 17 GND 0.00616073f
c37 8 GND 0.00916476f
c38 7 GND 0.00934572f
c39 3 GND 0.00800723f
c40 1 GND 0.00767384f
r41 24 28 0.151219
r42 21 28 0.151219
r43 18 27 0.0501704
r44 18 20 1.94969
r45 17 28 0.0501704
r46 17 20 1.178
r47 13 27 0.151219
r48 9 27 0.151219
r49 8 13 0.979857
r50 7 9 1.11014
r51 3 24 0.979857
r52 1 21 1.09929
.ends

