.subckt myXOR a b z
m1 a b__ z z NMOS_VTL L=50e-9 W=90e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m0 z a b__ b__ NMOS_VTL L=50e-9 W=90e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m3 a b z z PMOS_VTL L=50e-9 W=180e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
m2 z a b b PMOS_VTL L=50e-9 W=180e-9 AD=9.45e-15 AS=9.45e-15 PD=300e-9 PS=300e-9 M=1
xi0 b b__ myInverter45
.ends myXOR
