* File: myInverter.pex.netlist
* Created: Sun Sep 29 15:27:19 2024
* Program "Calibre xRC"
* Version "v2016.4_38.25"
* 
.include "myInverter.pex.netlist.pex"
.subckt myInverter  in gnd! vdd! out
* 
* out	out
* vdd!	vdd!
* gnd!	gnd!
* in	in
MM0 N_out_MM0_d N_in_MM0_g N_gnd!_MM0_s N_gnd!_MM0_b nfet L=2e-08 W=8.8e-08
+ nfin=3 adej=9.12e-16 asej=9.12e-16 pdej=2.52e-07 psej=2.52e-07
MM1 N_out_MM1_d N_in_MM0_g N_vdd!_MM1_s N_vdd!_MM1_b pfet L=2e-08 W=8.8e-08
+ nfin=3 adej=9.12e-16 asej=9.12e-16 pdej=2.52e-07 psej=2.52e-07
*
.include "myInverter.pex.netlist.myInverter.pxi"
*
.ends
*
*
