* File: myInverter.pex.netlist.pex
* Created: Sun Sep 29 15:27:19 2024
* Program "Calibre xRC"
* Version "v2016.4_38.25"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_myInverter%in 1 5 12
c11 5 0 0.00255497f
c12 1 0 0.014333f
r13 5 12 1.33371
r14 4 5 1.25687
r15 1 4 0.469932
.ends

.subckt PM_myInverter%gnd! 1 3 6 9 13 15 20 28
c14 28 0 0.00240709f
c15 20 0 0.0258163f
c16 15 0 0.00602802f
c17 13 0 0.00473953f
c18 6 0 0.0142984f
c19 3 0 0.0496017f
r20 14 28 3.16757
r21 14 15 0.128424
r22 12 20 5.70996
r23 12 13 0.128424
r24 7 13 0.494161
r25 7 9 8.12732
r26 6 15 0.494161
r27 6 9 3.95946
r28 3 28 0.15
r29 1 20 0.05
.ends

.subckt PM_myInverter%vdd! 1 2 5 8 12 14 26
c18 26 0 0.00150147f
c19 14 0 0.00589327f
c20 12 0 0.0120551f
c21 5 0 0.00645594f
c22 2 0 0.0348818f
c23 1 0 0.025072f
r24 13 26 2.50071
r25 13 14 0.128424
r26 11 12 0.128424
r27 6 12 0.494161
r28 6 8 2.41736
r29 5 14 0.494161
r30 5 8 3.08421
r31 2 26 0.1
r32 1 11 4.79304
.ends

.subckt PM_myInverter%out 1 2 9 13 28
c13 13 0 0.0261825f
c14 9 0 0.0127428f
c15 1 0 0.0212237f
r16 13 28 3.87611
r17 9 28 4.79304
r18 2 13 1.15
r19 1 9 1.25
.ends

