* File: myInverter45.pex.netlist
* Created: Mon Sep 30 15:31:07 2024
* Program "Calibre xRC"
* Version "v2016.4_38.25"
* 
.include "myInverter45.pex.netlist.pex"
.subckt myInverter45  IN GND! VDD! OUT
* 
* OUT	OUT
* VDD!	VDD!
* GND!	GND!
* IN	IN
MM0 N_OUT_MM0_d N_IN_MM0_g N_GND!_MM0_s N_GND!_MM0_b NMOS_VTL L=5e-08 W=9e-08
+ AD=1.08e-14 AS=1.08e-14 PD=4.2e-07 PS=4.2e-07
MM1 N_OUT_MM1_d N_IN_MM1_g N_VDD!_MM1_s N_VDD!_MM1_b PMOS_VTL L=5e-08 W=1.8e-07
+ AD=2.16e-14 AS=2.16e-14 PD=6e-07 PS=6e-07
*
.include "myInverter45.pex.netlist.MYINVERTER45.pxi"
*
.ends
*
*
