* File: myInverter45.pex.netlist.pex
* Created: Mon Sep 30 15:31:07 2024
* Program "Calibre xRC"
* Version "v2016.4_38.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_MYINVERTER45%IN 3 7 9 12 15
c16 15 GND 0.00927321f
c17 10 GND 0.00386362f
c18 9 GND 0.00984064f
c19 7 GND 0.0284502f
c20 3 GND 0.0235742f
r21 15 16 77.0449
r22 12 15 0.990714
r23 9 16 3.9
r24 9 10 0.422157
r25 5 10 5.21812
r26 5 7 33.93
r27 1 10 5.21812
r28 1 3 29.25
.ends

.subckt PM_MYINVERTER45%GND! 1 3 11 19
c11 19 GND 0.017366f
c12 11 GND 0.00775007f
c13 10 GND 0.00365664f
c14 3 GND 0.00951579f
c15 1 GND 0.007326f
r16 12 19 0.0418175
r17 10 19 0.160909
r18 10 11 0.542857
r19 5 11 0.212317
r20 3 5 0.803429
r21 1 12 0.803429
.ends

.subckt PM_MYINVERTER45%VDD! 2 3 11 19
c11 19 GND 0.017571f
c12 11 GND 0.00778115f
c13 10 GND 0.00365664f
c14 3 GND 0.0123594f
c15 2 GND 0.0101688f
r16 12 19 0.0418175
r17 10 19 0.160909
r18 10 11 0.542857
r19 5 11 0.212317
r20 3 5 1.20786
r21 2 12 1.20786
.ends

.subckt PM_MYINVERTER45%OUT 1 2 7
c6 1 GND 0.0293082f
r7 2 7 1.14
r8 1 7 1.30014
.ends

