************************************************************************
* auCdl Netlist:
* 
* Library Name:  MyLibPDK45
* Top Cell Name: myInverter45
* View Name:     schematic
* Netlisted on:  Sep 30 15:31:02 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: MyLibPDK45
* Cell Name:    myInverter45
* View Name:    schematic
************************************************************************

.SUBCKT myInverter45 in out
*.PININFO in:I out:O
MM0 out in gnd! gnd! NMOS_VTL W=90n L=50n m=1
MM1 out in vdd! vdd! PMOS_VTL W=180n L=50n m=1
.ENDS

