* File: myNAND.pex.netlist.pex
* Created: Tue Nov 26 18:25:31 2024
* Program "Calibre xRC"
* Version "v2016.4_38.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_MYNAND%A 3 7 10 13 18
c13 18 GND 0.00699578f
c14 13 GND 0.0065414f
c15 7 GND 0.0200744f
c16 3 GND 0.0247287f
r17 14 18 7.74429
r18 13 14 77.0449
r19 10 13 0.287714
r20 5 18 1.73169
r21 5 7 28.08
r22 1 18 1.73169
r23 1 3 41.34
.ends

.subckt PM_MYNAND%GND! 1 3 11 13 20
c12 20 GND 0.0257801f
c13 11 GND 0.00760925f
c14 10 GND 0.00361845f
c15 3 GND 0.00968172f
c16 1 GND 0.00898642f
r17 14 20 0.0335492
r18 11 13 0.438462
r19 10 20 0.171069
r20 10 13 0.146154
r21 5 11 0.212696
r22 3 5 0.789857
r23 1 14 0.789857
.ends

.subckt PM_MYNAND%B 3 7 11 14
c15 14 GND 0.00551996f
c16 11 GND 0.00680828f
c17 7 GND 0.0200744f
c18 3 GND 0.0235684f
r19 11 16 7.8
r20 10 14 0.298571
r21 10 11 77.0449
r22 5 16 1.73169
r23 5 7 28.08
r24 1 16 1.73169
r25 1 3 41.34
.ends

.subckt PM_MYNAND%Z 1 2 5 9 10
c16 10 GND 0.00301437f
c17 9 GND 0.00478205f
c18 5 GND 0.0157049f
c19 1 GND 0.00872428f
r20 9 11 0.212696
r21 9 10 0.76
r22 3 10 0.212696
r23 3 5 0.57
r24 2 5 0.922857
r25 1 11 0.461429
.ends

.subckt PM_MYNAND%VDD! 2 3 4 12 14 19
c14 25 GND 0.0023228f
c15 19 GND 0.0215393f
c16 12 GND 0.00761169f
c17 11 GND 0.00361845f
c18 4 GND 0.00987967f
c19 3 GND 0.0106202f
c20 2 GND 0.00687363f
r21 20 25 0.171069
r22 19 21 0.212696
r23 19 20 1.92923
r24 15 25 0.0335492
r25 12 14 0.292308
r26 11 25 0.171069
r27 11 14 0.292308
r28 6 12 0.212696
r29 4 6 0.814286
r30 3 21 0.814286
r31 2 15 0.814286
.ends

