************************************************************************
* auCdl Netlist:
* 
* Library Name:  MyLibPDK45
* Top Cell Name: myNAND
* View Name:     schematic
* Netlisted on:  Nov 26 18:25:26 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: MyLibPDK45
* Cell Name:    myNAND
* View Name:    schematic
************************************************************************

.SUBCKT myNAND A B Z
*.PININFO A:I B:I Z:O
MM1 Z B net013 gnd! NMOS_VTL W=180n L=50n m=1
MM0 net013 A gnd! gnd! NMOS_VTL W=180n L=50n m=1
MM3 Z A vdd! vdd! PMOS_VTL W=180n L=50n m=1
MM2 Z B vdd! vdd! PMOS_VTL W=180n L=50n m=1
.ENDS

